US08193239B2
(i) 6-Bromo-2-methylisoindolin-1-one
Methyl 5-bromo-2-methylbenzoate (3 g) in ethyl acetate (100 mL) was treated with N-chlorosuccinimide (1.749 g). The mixture was stirred and heated under reflux whilst being irradiated with a halogen lamp for 5 h. The reaction mixture was cooled and washed with 10% aqueous sodium metabisufite (100 mL) and water. The organic phase was dried over magnesium sulfate and concentrated to an oil. The crude product was treated with 8M methylamine in ethanol (20 mL) and the resulting mixture heated under reflux for 30 min. After cooling, the solution was concentrated to an oil, and the mixture purified on silica gel eluting with ethyl acetate to afford the sub-titled compound (0.300 g).

reactant | Methyl 5-bromo-2-methylbenzoate | 3 g | BrC=1C=CC(=C(C(=O)OC)C1)C | C9H9BrO2
reactant | N-chlorosuccinimide | 1.749 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-2-methylisoindolin-1-one | 0.300 g | BrC1=CC=C2CN(C(C2=C1)=O)C | C9H8BrNO
